US05892104
Sodium hydride (60% in mineral oil) (5.4 gm) was added to 60 gm toluene in a stirred reaction flask and stirred under nitrogen. 3,3,5-Trimethyl-4-cyclohepten-1-ol (15.4 gm) was then added over 10 minutes at room temperature and stirred overnight. Iodomethane (21.3 gm) was added dropwise over 10 minutes followed by heating at 45° C. for six hours and four hours at 98° C. The reaction mixture was washed with 50 mL of saturated sodium bicarbonate solution and distilled through a short Vigreux column. A heart cut fraction, 3,3,5-trimethyl-4-cyclohepten-1-yl methyl ether, was obtained that weighed 13.9 gm and had a boiling point of 85° C. at 10 mm pressure. Its GC purity was 97%. The fraction was evaluated for its odor quality and characterized as fresh, spicy, saffron-like, floral, (marigold)-herbaceous-woody-powerful.

reactant | Sodium hydride | 5.4 gm | [H-].[Na+]
reactant | 3,3,5-Trimethyl-4-cyclohepten-1-ol | 15.4 gm | CC1(CC(CCC(=C1)C)O)C | C10H18O
reactant | Iodomethane | 21.3 gm | IC | CH3I
solvent | toluene | 60 gm | C1(=CC=CC=C1)C | C7H8
product | 3,3,5-trimethyl-4-cyclohepten-1-yl methyl ether | COC1CC(C=C(CC1)C)(C)C | C11H20O
